US04558038
B. Ethyl N-Carbobenzyloxy-L-isoleucyl-N-(3-pyridyl)glycinate
A methylene chloride solution of N-carbobenzyloxy-L-isoleucine and ethyl N-(3-pyridyl)-glycinate was treated with N,N-dicyclohexylcarbodiimide as in example 5A. Purification of the product was accomplished by chromatography on silica-gel.

reactant | N-carbobenzyloxy-L-isoleucine | C(=O)(OCC1=CC=CC=C1)N[C@@H]([C@@H](C)CC)C(=O)O | C14H19NO4
reactant | ethyl N-(3-pyridyl)-glycinate | N1=CC(=CC=C1)NCC(=O)OCC | C9H12N2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl N-Carbobenzyloxy-L-isoleucyl-N-(3-pyridyl)glycinate | C(=O)(OCC1=CC=CC=C1)N[C@@H]([C@@H](C)CC)C(=O)N(CC(=O)OCC)C=1C=NC=CC1 | C23H29N3O5
